US06413991B1
4-(4-(N-benzyl-2-aminoethyl)phenoxy)benzamide
N-benzyl-4-hydroxyphenethylamine (J. Het. Chem., p. 839, 1971; 7.26 g, 0.032 mol) and 6-chloronicotinamide (5.0 g, 0.032 mol)were dissolved in 180 ml of dimethylacetamide and heated to reflux while water was collected in a Dean-Stark trap prefilled with isooctane. The reaction was refluxed under nitrogen for 17 hrs and additional 6-chloronicotinamide (1 g) added. After 2 hours, the solvent was removed in vacuo and the residue dissolved in 125 ml of ethyl acetate. The solution was shaken with dilute HCl and the solids collected by filteration (8.2 g). NMR.

reactant | N-benzyl-4-hydroxyphenethylamine | 0.032 mol, 7.26 g | C(C1=CC=CC=C1)NCCC1=CC=C(C=C1)O | C15H17NO
reactant | 6-chloronicotinamide | 0.032 mol, 5.0 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | water | O | H2O
reactant | dimethylacetamide | 180 ml | CC(=O)N(C)C | C4H9NO
product | 4-(4-(N-benzyl-2-aminoethyl)phenoxy)benzamide | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=CC=C(C(=O)N)C=C2)C=C1 | C22H22N2O2
